US07504508B2
(2S,4R)-1-(4-{4-[Acetyl-4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid was prepared from (2S,4R)-1-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid ethyl ester (0.300 g, 0.522 mol) was hydrolyzed to the acid by dissolving in tetrahydrofuran and ethanol and lithium hydroxide (1N) was added and heated 50° C. for 2 h. The mixture was cooled to room temperature, acidified to form a white precipitate. The solid was filtered to give to afford the product after HPLC purification.

reactant | (2S,4R)-1-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-3-carboxylic acid ethyl ester | 0.522 mol, 0.300 g | C(C)OC(=O)C1CN(CCC1)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C | C33H36ClN3O4
reactant | ethanol | C(C)O | C2H6O
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | piperidine-3-carboxylic acid | N1CC(CCC1)C(=O)O | C6H11NO2
